US05162500
23.6 mg of L-valyl-L-prolyl-3-amino-2-oxo-pentanoyl-D-leucyl-L-valine prepared by the manner shown in Example 8 were dissolved in 2 ml of methanol. The resultant solution was admixed with a solution of 30 mg of 4-phenyl-butanoic acid anhydride in 1 ml of methylene chloride and with 0.050 ml of triethylamine, and stirred at room temperature for 1 hour. The reaction mixture was acidified with acetic acid, and subjected to a purification operation by employing a column (300 ml) filled with "Sefadex LH20 " with methanol, so that 20.9 mg of phenylbutanoyl-L-valyl-L-prolyl-3-amino-2-oxopentanoyl-D-leucyl-L-valine were obtained.

reactant | L-valyl-L-prolyl-3-amino-2-oxo-pentanoyl-D-leucyl-L-valine | 23.6 mg | N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N([C@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)O)C(C(C(CC)N)=O)=O)CCC1 | C26H45N5O7
reactant | 4-phenyl-butanoic acid anhydride | 30 mg | C1(=CC=CC=C1)CCCC(=O)OC(CCCC1=CC=CC=C1)=O | C20H22O3
reactant | triethylamine | 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 2 ml | CO | CH4O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | phenylbutanoyl-L-valyl-L-prolyl-3-amino-2-oxopentanoyl-D-leucyl-L-valine | 20.9 mg | C1(=CC=CC=C1)CCCC(=O)N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N([C@H](C(C(C)C)N)C(=O)N[C@@H](C(C)C)C(=O)O)C(C(CCC)=O)=O)CCC1 | C36H55N5O8
